US07060827B2
In like manner to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, 2,4-dichloro-5-fluoropyrimidine and 3-methoxyaniline were reacted to yield N2,N4-bis(3-methoxyphenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (CD3OD): δ 7.96 (d, 1H, J=5.4 Hz), 7.24 (m, 6H), 7.06 (t, 1H, J=2.4 Hz), 7.00 (dt, 1H, J=1.2 Hz), 6.79 (m, 1H), 3.72 (s, 3H), 3.70 (s, 3H); 19F NMR (CD3OD): δ −46112; LCMS: ret. time: 23.46 min.; purity: 99%; MS (m/e): 341 (MH+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 3-methoxyaniline | COC=1C=C(N)C=CC1 | C7H9NO
product | N2,N4-bis(3-methoxyphenyl)-5-fluoro-2,4-pyrimidinediamine | COC=1C=C(C=CC1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)OC)F | C18H17FN4O2
